US05935908
a) Propionic acid (2,5-difluorophenyl) ester
At 0° C.-5° C., a solution of 100 g of 2,5-difluorophenol in 66.5 g of pyridine is added dropwise in the course of 2 hours to a solution of 71.2 g of propionic acid chloride in 800 ml of toluene and stirring is then carried out at room temperature for a further hour. The reaction mixture is then diluted with ethyl acetate, washed twice with water and once with saturated sodium chloride solution and the organic phase is separated off, dried with sodium sulfate and concentrated by evaporation in vacuo. The crude product is processed further without further purification.

reactant | 2,5-difluorophenol | 100 g | FC1=C(C=C(C=C1)F)O | C6H4F2O
reactant | propionic acid chloride | 71.2 g | C(CC)(=O)Cl | C3H5ClO
solvent | pyridine | 66.5 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Propionic acid (2,5-difluorophenyl) ester | FC1=C(C=C(C=C1)F)OC(CC)=O | C9H8F2O2
